US06265411B1
A solution of oxindole (259 mg, 1.95 mmol) in THF (3 ml) was added dropwise to a suspension of sodium hydride (78 mg, 1.95 mmol, prewashed with hexane) in THF (3 ml). The mixture was stirred for 30 minutes at ambient temperature and a solution of 4-chloro-6-methoxy-7-(2-(pyrrolidin-1-yl)ethoxy)quinazoline (200 mg, 0.65 mmol) in DMF (3 ml) was added dropwise. The mixture was heated at 60° C. for 30 minutes, the THF was removed by evaporation and the residue was partitioned between methylene chloride and water. The organic layer was separated, washed with brine, dried (MgSO4) and the solvent removed by evaporation. The solid residue was purified by chromatography on neutral aluminium oxide eluting with methylene chloride/methanol (80/20). The purified solid was dissolved in methylene chloride containing methanol and 3M ethereal hydrogen chloride was added. The volatiles were removed by evaporation and the residue was suspended in ether. The solid was collected by filtration, washed with ether and dried under vacuum to give 6-methoxy-4-(oxindol-3-yl)-7-(2-(pyrrolidin-1-yl)ethoxy)quinazoline hydrochloride (55 mg, 18%).

reactant | oxindole | 1.95 mmol, 259 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | sodium hydride | 1.95 mmol, 78 mg | [H-].[Na+]
reactant | 4-chloro-6-methoxy-7-(2-(pyrrolidin-1-yl)ethoxy)quinazoline | 0.65 mmol, 200 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCN1CCCC1 | C15H18ClN3O2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-4-(oxindol-3-yl)-7-(2-(pyrrolidin-1-yl)ethoxy)quinazoline hydrochloride | 55 mg, 18% | Cl.COC=1C=C2C(=NC=NC2=CC1OCCN1CCCC1)C1C(NC2=CC=CC=C12)=O | InChI=1S/C23H24N4O3.ClH/c1-29-19-12-16-18(13-20(19)30-11-10-27-8-4-5-9-27)24-14-25-22(16)21-15-6-2-3-7-17(15)26-23(21)28;/h2-3,6-7,12-14,21H,4-5,8-11H2,1H3,(H,26,28);1H
